US09290487B2
Step 1 Synthesis of 4-bromo-6,7-difluoro-1H-indole
A solution (20 mL) of 5-Bromo-1,2-difluoro-3-nitrobenzene (1.19 g, 5.00 mmol) in THF was cooled to −50° C. To this, a 1 M vinylmagnesium bromide/THF solution (15 mL) was added dropwise. After the mixture was stirred at −40° C. for 4 hours, a saturated aqueous ammonium chloride solution was added thereto, and concentrated under reduced pressure. The reaction solution was diluted with ethyl acetate, and after washed with saturated brine, the resultant was dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane) to thus obtain the title compound.

reactant | 5-Bromo-1,2-difluoro-3-nitrobenzene | 5.00 mmol, 20 mL, 1.19 g | BrC=1C=C(C(=C(C1)F)F)[N+](=O)[O-] | C6H2BrF2NO2
reactant | vinylmagnesium bromide THF | 1 M, 15 mL | C(=C)[Mg]Br.C1CCOC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-bromo-6,7-difluoro-1H-indole | yield: 12% | BrC1=C2C=CNC2=C(C(=C1)F)F | C8H4BrF2N
